US07138414B2
c) 1-(2-chloro-4-fluorobenzoyl)-3-[2-methoxy-4-(5-methyl-4H-[1,2,4]triazol-3-yl)-phenyl]urea
The solution of equivalent amounts of 2-chloro-4-fluorobenzoyl isocyanate was added dropwise to the solution of 35 mg of 2-methoxy-4-(5-methyl-4H-[1,2,4]triazol-3-yl)phenylamine in 3 ml of acetonitrile and the mixture was stirred at room temperature for 30 minutes. The solid was then filtered off with suction, stirred with t-butyl methyl ether, filtered off with suction and dried under reduced pressure.

reactant | 2-chloro-4-fluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=CC(=C1)F | C8H3ClFNO2
reactant | 2-methoxy-4-(5-methyl-4H-[1,2,4]triazol-3-yl)phenylamine | 35 mg | COC1=C(C=CC(=C1)C1=NN=C(N1)C)N | C10H12N4O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-(2-chloro-4-fluorobenzoyl)-3-[2-methoxy-4-(5-methyl-4H-[1,2,4]triazol-3-yl)-phenyl]urea | ClC1=C(C(=O)NC(=O)NC2=C(C=C(C=C2)C2=NN=C(N2)C)OC)C=CC(=C1)F | C18H15ClFN5O3
